US08981147B2
bis(4-dimethylamino-3,5-dimethylphenyl)phosphine oxide
Under an argon atmosphere, a solution of magnesium (2.4 g, 0.75 equivalent), a small amount of iodine and a small amount of 1,2-dibromoethane in tetrahydrofuran (15 mL) was stirred at room temperature for 1 hr. A solution of 4-bromo-N,N,2,6-tetramethylaniline (31.2 g, 0.137 moL) synthesized in Reference Example 2 in tetrahydrofuran (50 mL) was added to the mixture at 25° C. to 30° C. over 1 hr, and the mixture was stirred at 40° C. for 1 hr. Then, a solution of diethyl phosphite (4.69 g, 0.25 equivalent) in tetrahydrofuran (15 ml) was added at 25° C. to 30° C. over 1 hr. Water (60 mL) was added to the mixture at 0° C. to 5° C., and then toluene (100 mL) was added to the mixture, and the insoluble material was removed by filtration. The filtrate was partitioned, and the organic layer was washed with water (30 mL) and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel 100 g, n-hexane/ethyl acetate) to give the title compound (4.6 g, colorless liquid). yield 40%.

reactant | magnesium | 2.4 g, 0.75 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 4-bromo-N,N,2,6-tetramethylaniline | 31.2 g | BrC1=CC(=C(N(C)C)C(=C1)C)C | C10H14BrN
reactant | diethyl phosphite | 4.69 g, 0.25 equivalent | P(OCC)(OCC)[O-]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 60 mL | O | H2O
product | bis(4-dimethylamino-3,5-dimethylphenyl)phosphine oxide | 4.6 g, yield 40% | CN(C1=C(C=C(C=C1C)P(C1=CC(=C(C(=C1)C)N(C)C)C)=O)C)C | C20H29N2OP
